US07144899B2
Step E: 3-isopropylprolyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide
To a stirred solution of diastereomer A of 1-(tert-butoxycarbonyl)-3-isopropylprolyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide (96 mg, 0.18 mmol) in dioxane (5.0 mL) was added 4.0 N HCl in dioxane in excess. After 1 h, the solvent was removed in vacuo to give the HCl salt of the title compound as a yellow solid. LCMS (M+H): 445.3. 1H NMR (CD3OD, 400 MHz): δ 9.05 (s, 1 H), 8.38 (s, 1 H), 7.71 (s, 1 H), 7.51–7.45 (m, 2 H), 4.48–4.42 (m, 2 H), 4.39 (d, J=16.0 Hz, 1 H), 4.24 (d, J=16.4 Hz, 1 H), 3.79–3.48 (m, 3 H), 3.37–3.31 (m, 1 H), 2.44–2.39 (m, 1 H), 2.38–2.23 (m, 1 H), 2.16–2.11 (m, 1 H), 2.09–1.84 (m, 4 H), 1.79–1.71 (m, 1 H), 1.07 (d, J=6.8 Hz, 3 H), 1.01 (d, J=6.4 Hz, 3 H).

reactant | 1-(tert-butoxycarbonyl)-3-isopropylprolyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide | 0.18 mmol, 96 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@H](C(=O)NCC3=C(C=CC(=C3)Cl)N3N=CN=C3)CCC2)C(CC1)C(C)C | C27H37ClN6O4
reactant | HCl | 4.0 N | Cl | ClH
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | 3-isopropylprolyl-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]-L-prolinamide | C(C)(C)C1[C@H](NCC1)C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)N2N=CN=C2)CCC1 | C22H29ClN6O2
